US04786648
A solution of 4-pyridine carboxaldehyde (25.0 g, 233 mmol) in 100 ml of methanol was treated with hydroxylamine hydrochloride (17.84 g, 250 mmol) and stirred 15 minutes at room temperature. The resulting white solid was collected by filtration and dried in vacuo to provide 27.0 g of 4-pyridine carboxaldehyde oxime, hydrochloride, mp 246°-247° C.

reactant | 4-pyridine carboxaldehyde | 233 mmol, 25.0 g | N1=CC=C(C=C1)C=O | C6H5NO
reactant | hydroxylamine hydrochloride | 250 mmol, 17.84 g | Cl.NO
solvent | methanol | 100 ml | CO | CH4O
product | 4-pyridine carboxaldehyde oxime, hydrochloride | 27.0 g | Cl.N1=CC=C(C=C1)C=NO | InChI=1S/C6H6N2O.ClH/c9-8-5-6-1-3-7-4-2-6;/h1-5,9H;1H
